US04079181
To a solution of 2,2,2,-trichloroethyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate (1.52 g) in benzene (30 ml) is added morpholine (0.48 ml) at beneath 10° C. After stirring for 1 hour, the mixture is washed with water, dried, and evaporated. Purification of the obtained residue by chromatography over silica gel gives 2,2,2-trichloroethyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate (0.76 g). Yield: 50%.

reactant | 2,2,2,-trichloroethyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | 1.52 g | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC(Cl)(Cl)Cl)=C(C)OS(=O)(=O)C)=O | C18H17Cl3N2O7S2
reactant | morpholine | 0.48 ml | N1CCOCC1 | C4H9NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2,2,2-trichloroethyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate | 0.76 g, Yield: 50% | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC(Cl)(Cl)Cl)=C(C)N1CCOCC1)=O | C21H22Cl3N3O5S
